US04971993
N-t-butyloxycarbonyl-L-serine (33.86 g, 165 mmole), L-proline benzylester hydrochloride (39.88 g, 165 mmole) and HOBT (22.29 g, 165 mmole) were dissolved in methylene chloride (500 ml), and triethylamine (16.70 g, 5 mmole) and WSC hydrochloride (31.63 g, 165 mmole) were added thereto at -30° C. The mixture was stirred for 2 hours at less than 0° C., and next overnight at room temperature. The solution was washed with 5% aqueous sodium bicarbonate (400 ml, twice), 5% aqueous citric acid (400 ml, twice) and water (400 ml) in the order given, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to produce oily residue. The residue was crystallized from ethyl acetate and n-hexane to obtain N-t-butyloxycarbonyl-L-seryl-L-proline benzylester (yield: 36.09 g, 55.7%).

reactant | N-t-butyloxycarbonyl-L-serine | 165 mmole, 33.86 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | L-proline benzylester hydrochloride | 165 mmole, 39.88 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | HOBT | 165 mmole, 22.29 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 5 mmole, 16.70 g | C(C)N(CC)CC | C6H15N
reactant | WSC hydrochloride | 165 mmole, 31.63 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-t-butyloxycarbonyl-L-seryl-L-proline benzylester | yield: 36.09 g, 55.7% | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CO)=O)=O | C20H28N2O6
